Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
clogged foley
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx parkinsons (on sinemet), chronic foley for ___ yrs 
___ BPH), with recurrent UTIs and clogged foley incidents 
treated at ___ who presents from home with a clogged Foley. 
Patient has had a Foley for the last ___ years. Patient is not 
sure when the Foley was initially inserted he usually gets his 
care at ___ but he has been unhappy there and decided to come 
here. Per patient's wife he is at his baseline mental status and 
otherwise had no signs of overt infection. Patient has 
Parkinsosn and is mostly nonverbal (save for ___ word sentences) 
at home. On arrival patient's Foley was in place the urine has 
been a pack a blue color and it was clotted so the Foley was 
replaced with good urine output.  

 Exam failed to show any acute signs of infection however given 
patient's inability to articulate ED did initial labs

 In the ED, initial vitals were: 99.1 78 159/81 18 100% RA  
 - Labs were significant for Hgb 10, UA with many WBCs, no 
nitrites  
 - Foley was removed and replaced with good urine output.  
 - CXR revealedNO  acute cardiopulmonary process.   
 - The patient was given CTX 1 gm IV  

 Upon arrival to the floor,  patient's wife reports that he has 
had foley for ___ years ___ BPH, and after repeated admissions to 
___ for UTI, they felt they wanted to receive care at ___ for 
clogged foley and recurrent UTIs. Received last D/C summary from 
___. Most recent urine culture grew out klebsiella, cx report 
pending, but patient was not treated as this was felt to be asx 
bacteria from chronic foley. 

He denies any pain or fevers or chills at this time. He is 
somnolent, which wife reports is baseline. wife reports chief 
concern was clogged foley which resolved in ED, but wife also 
reports ___ of clogged foley necessitating ED visits ___ 
X per month.  

 
Past Medical History:
___ disease
BPH with chronic foley
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
PHYSICAL EXAM:  
 Vitals: T 98.3 BP 134/71 HR 79 RR 14 100 % RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

D/C EXAM

 Vitals:  T 98.9 BP 137-114/57-64 HR 61-67 RR 20 97 RA wt 63.5 
kg
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
ADMISSION LABS:

___ 10:49AM   GLUCOSE-85 UREA N-24* CREAT-1.0 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-26 ANION GAP-12
___ 10:49AM   ALT(SGPT)-12 AST(SGOT)-15 LD(LDH)-192 ALK 
PHOS-76 TOT BILI-0.4
___ 10:49AM   ALBUMIN-3.4* CALCIUM-9.3 PHOSPHATE-3.4 
MAGNESIUM-2.1
___ 10:49AM   WBC-5.6 RBC-3.34* HGB-10.4* HCT-31.2* MCV-93 
MCH-31.1 MCHC-33.3 RDW-13.6 RDWSD-46.2
___ 10:49AM   PLT COUNT-208
___ 10:49AM   ___ PTT-28.2 ___
___ 05:04AM   LACTATE-1.4 K+-4.0
___ 04:37AM   GLUCOSE-81 UREA N-30* CREAT-1.3* SODIUM-140 
POTASSIUM-5.3* CHLORIDE-105 TOTAL CO2-27 ANION GAP-13
___ 04:37AM   estGFR-Using this
___ 04:37AM   ALT(SGPT)-16 AST(SGOT)-37 ALK PHOS-69 TOT 
BILI-0.3
___ 04:37AM   LIPASE-28
___ 04:37AM   ALBUMIN-3.7 CALCIUM-9.6 PHOSPHATE-3.6 
MAGNESIUM-2.2
___ 04:37AM URINE  HOURS-RANDOM
___ 04:37AM URINE  UHOLD-HOLD
___ 04:37AM   WBC-8.4 RBC-3.40* HGB-10.6* HCT-32.1* MCV-94 
MCH-31.2 MCHC-33.0 RDW-13.9 RDWSD-47.4*
___ 04:37AM   NEUTS-78.0* LYMPHS-13.0* MONOS-7.5 EOS-0.6* 
BASOS-0.5 IM ___ AbsNeut-6.57* AbsLymp-1.09* AbsMono-0.63 
AbsEos-0.05 AbsBaso-0.04
___ 04:37AM   PLT COUNT-206
___ 04:37AM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 04:37AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN->600 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-LG
___ 04:37AM URINE  RBC-27* WBC->182* BACTERIA-NONE 
YEAST-NONE EPI-0 TRANS EPI-1
___ 04:37AM URINE  MUCOUS-RARE

CXR ___
IMPRESSION:  
No acute cardiopulmonary process.  Limited x-ray due low lung 
volumes and 
patient positioning 

 
Brief Hospital Course:
___ with hx Parkinsons (on carbidopa/levidopa), chronic foley 
for ___ yrs ___ BPH), with recurrent and clogged foley 
incidents wioth asymptomatic bacteriuria, normally treated at 
___ who presents from home with a clogged Foley, now resolved. 

# Clogged foley: Replaced and resolved in ED. Patient has 
history of recurrent blocked foleys, and known history of 
missing several outpatient geriatric, urology and neurology 
appointments. He often misses his scheduled urology appointments 
and then comes to ___ ED ___ per month per ___ records from 
recent hospitalization there (___). Per wife, she 
reports urology F/U appointments are too infrequent (q30 days) 
as foley often gets clogged withn 14 days, and she reports not 
wanting to go as she feels when pt has (what appears to her) a 
UTI, which she describes as "material in the foley bag", she 
expects to get antibiotics and a foley change, but urology only 
does a foley change. Explained to wife that patient likely does 
not have urinary tract infections but bacteria growing from bag 
due to chronic indwelling catheter, and standard of care is 
typically cath changes to avid biofilm accumulation and 
bacterial buildup. Patient's wife willing to have patient F/U 
with ___ urology with more frequent visits, and have home 
visiting nurses with foley care.

# Recurrent episodes ? UTIs: Often ___ lack of foley switching 
and missing outpt urology appts. Foley often gets blocked and 
patient gets questionable recurrent UTIs. Currently patient is 
unlikely to have true UTI, as he has positive U/A in setting of 
chronic indwelling catheter, but he has no tenderness in 
suprapubic area, no CVAT, and no localizing symptoms. However, 
given inability to give accurate history due to masked facies, 
chronic sleepiness, will treat empirically with ___bx 
(D1, D2 ceftriaxone on ___, cefpodoxime ___ 

# Parkinsons: Per ___ notes, patient has advanced Parkinsons and 
long history of poor attendance at outpt visits and limited med 
compliance. His functional status has declined precipitously, as 
evidenced by notes that document that he know likely has late 
stage untreated ___ due to poor med compliance and 
history of decubitus ulcers at home with little home services 
(due to wife's reticence for home ___ and ___. He frequently is 
admitted to ___ with unclear Sinemet compliance, and is 
often d/ced with ___ sinemet. Of note last D/C summary does 
not one moment where patient could stand with assistance. 
Currently he is sleepy, with eyelids drooped, has masked facies, 
cogwheel rigidity, consistent with prior ___ notes. He is nearly 
dependent in almost all ADLS and all IADLS, a slight decline 
from prior ___ d/c (adequate in "some ADLs and inadequate in all 
IADLS) and has a wheelchair at home. Wife has been reluctant to 
receive help at home, even despite patient developing decubitus 
ulcers ___ to being near bed bound now. He managed to walk 
around  bed with ___ and wife assistance. He was d/ced with home 
___ and ___ with ___ neurology follow up (daughter was given 
phone number of ___ neurology to F/U, who lives with patient and 
works as ___).  

# Decubitus ulcers: noted on prior admissions. Likely ___ near 
bed bound state with severe late stage ___. D/ced with 
home ___ and ___

# Anemia: chronic issue. compared to last d/c at ___ stable 
(crit 32.0 last admission)

TRANSITIONAL ISSUES
===============================
[] D/ced with home ___ and ___ services for foley catheter for 
foley care and physical therapy
[] Patient to follow up with ___ neurology for ___ care 
and ___ urology for foley cath changes 
[] New meds: Vitamin C and zinc 14 days for wound healing, and 
cefpodoxime for 5 days for total 7 day course UTI (D1, D2 
ceftriaxone on ___, cefpodoxime ___
[] Home wound care nursing established for decubitus ulcer, 
please follow up 
[] patient likely has component of malnutrition given slow wound 
healing, will gie vitamin c and zinc as above, and recommended 
to family patient take supplements for food at home 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Docusate Sodium 100 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
6. Omeprazole 20 mg PO DAILY 
7. Psyllium Powder 1 PKT PO DAILY:PRN constipation 
8. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
2. Carbidopa-Levodopa (___) 1 TAB PO TID 
RX *carbidopa-levodopa [Sinemet] 25 mg-100 mg 1 tablet(s) by 
mouth three times a day Disp #*30 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
4. Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 capsule(s) by mouth daily Disp 
#*30 Capsule Refills:*0
5. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
6. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 g by 
mouth daily Refills:*0
7. Psyllium Powder 1 PKT PO DAILY:PRN constipation 
RX *psyllium husk (aspartame) [Natural Psyllium Fiber] 3.4 
gram/5.8 gram 1 powder(s) by mouth daily as needed for 
constipation Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
9. Ascorbic Acid ___ mg PO BID Duration: 14 Days 
RX *ascorbic acid ___ mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0
10. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 5 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*9 
Tablet Refills:*0
11. Zinc Sulfate 220 mg PO DAILY Duration: 14 Days 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth daily 
Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Advanced ___ Disease 
Paralysis Agitans 
Clogged Foley 
Possible UTI 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because your foley was clogged. It was 
replaced. However, you were admitted to the hospital because 
there was concern for caring for you at home. 

At the hospital, you were evaluated by our doctors and it was 
determined that you needed more help at home to deal with your 
foley and ___ disease. We are sending you home with home 
nurses visits and physical therapy visits to help you rebuild 
your strength, take your ___ medications, and avoid your 
foley clogging in the future.

We wish you all the best!
-Your ___ Care Team
 
Followup Instructions:
___